US05888940
4,6-Dichloro-2-(methylthio)benzothiazole
43.7 g (0.47 mol) of dimethyl disulfide and 154.5 g (1.5 mol) of tert-butyl nitrite were added to a solution of 34 g (0.16 mol) of 2-amino-4,6-dichlorobenzothiazole in 1 liter of 1,2-dichloroethane. Stirring was carried out for 16 hours, followed by washing with water and 10% strength sodium hydroxide solution, drying over magnesium sulfate and evaporating down.

reactant | dimethyl disulfide | 0.47 mol, 43.7 g | CSSC | C2H6S2
reactant | tert-butyl nitrite | 1.5 mol, 154.5 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-4,6-dichlorobenzothiazole | 0.16 mol, 34 g | NC=1SC2=C(N1)C(=CC(=C2)Cl)Cl | C7H4Cl2N2S
solvent | 1,2-dichloroethane | 1 liter | ClCCCl | C2H4Cl2
product | 4,6-Dichloro-2-(methylthio)benzothiazole | ClC1=CC(=CC2=C1N=C(S2)SC)Cl | C8H5Cl2NS2
